US08686628B2
(2) Synthesis of 9-[4-(4-bromophenyl)phenyl]-10-phenylanthracene (abbreviation: PBA)
1.0 g (2.63 mmol) of 9-iodo-10-phenylanthracene, 542 mg (2.70 mmol) of 4-(4-bromophenyl)phenylboronic acid, 46 mg (0.03 mmol) of tetrakis(triphenylphosphine)palladium, 3 mL (6 mmol) of potassium carbonate solution (2.0 mol/L), and 10 mL of toluene were stirred for 9 hours at 80° C. After reaction, toluene was added, and it was filtered through florisil®, celite, and alumina. The filtrate was washed with water and saturated saline, and then dried with magnesium sulfate. After natural filtering, the filtrate was concentrated, and when recrystallization was performed with a mixture of chloroform and hexane, 562 mg of 9-[4-(4-bromophenyl)phenyl]-10-phenylanthracene (PBA) that was a target substance and was a light brown solid was obtained in a yield of 45% (Synthesis Scheme (e-2)).

reactant | 9-iodo-10-phenylanthracene | 2.63 mmol, 1.0 g | IC=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C20H13I
reactant | 4-(4-bromophenyl)phenylboronic acid | 2.70 mmol, 542 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)B(O)O | C12H10BBrO2
reactant | potassium carbonate | 6 mmol, 2.0 mol/L, 3 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[4-(4-bromophenyl)phenyl]-10-phenylanthracene | yield of 45% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C32H21Br
